US06350907B1
A mixture of tert-butyl (3R,5E)-6-[3-chloro-(4-phenyl)phenyl]-3-({[(1S)-2,2-dimethyl-1-({[(1R)-1-phenylethyl]amino}carbonyl)propyl]amino}carbonyl)hex-5-enoate (936 mg, 1.52 mmol) and p-toluenesulphonyl hydrazide (1.41 gm, 7.60 mmol) in toluene (15 mL) was stirred under nitrogen at reflux for 4 h. After being cooled, the mixture was diluted with ether (150 mL), and washed with water (50 mL), 0.5M hydrochloric acid (50 mL) and saturated aqueous sodium chloride (50 mL), dried (MgSO4), and concentrated under reduced pressure. The residue was purified by flash chromatography (gradient elution with hexane/ethyl acetate) to give tert-butyl (3R)-6-[3-chloro-(4-phenyl)phenyl]-3-({[(1S)-2,2-dimethyl-1-({[(1R)-1-phenylethyl]amino}carbonyl)propyl]amino)carbonyl)hexanoate (701 mg, 74%), as a colourless foam.

reactant | tert-butyl (3R,5E)-6-[3-chloro-(4-phenyl)phenyl]-3-({[(1S)-2,2-dimethyl-1-({[(1R)-1-phenylethyl]amino}carbonyl)propyl]amino}carbonyl)hex-5-enoate | 1.52 mmol, 936 mg | ClC=1C=C(C=CC1C1=CC=CC=C1)/C=C/C[C@H](CC(=O)OC(C)(C)C)C(=O)N[C@@H](C(C)(C)C)C(=O)N[C@H](C)C1=CC=CC=C1 | C37H45ClN2O4
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
solvent | ether | 150 mL | CCOCC | C4H10O
product | tert-butyl (3R)-6-[3-chloro-(4-phenyl)phenyl]-3-({[(1S)-2,2-dimethyl-1-({[(1R)-1-phenylethyl]amino}carbonyl)propyl]amino)carbonyl)hexanoate | 701 mg, 74% | ClC=1C=C(C=CC1C1=CC=CC=C1)CCC[C@H](CC(=O)OC(C)(C)C)C(=O)N[C@@H](C(C)(C)C)C(=O)N[C@H](C)C1=CC=CC=C1 | C37H47ClN2O4
